US09216999B2
5-(Aminomethyl)-N-(1-benzylpiperidin-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine
{4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl}methanol (212 mg, 0.454 mmol), phthalimide (134 mg, 0.909 mmol) and triphenylphosphine (238 mg, 0.909 mmol) in tetrahydrofuran was stirred at room temperature for 30 minutes and with diisopropyl azodicarboxylate (184 mg, 0.909 mmol) for one day. The reaction mixture was concentrated under reduced pressure and, after addition of water, extracted with ethyl acetate. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1/(v/v)) to remove triphenylphosphine oxide. The residue was dissolved in ethanol (10 mL) and stirred with hydrazine monohydrate (1.00 mL, 11.6 mmol) at 80° C. for 1 hour. The reaction mixture was concentrated under reduced pressure and, after addition of water, extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/1 (v/v)) to give the title compound (51.1 mg, yield 24%).

reactant | {4-[(1-Benzylpiperidin-4-yl)amino]-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-5-yl}methanol | 0.454 mmol, 212 mg | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C2C(=NC=C1CO)N(C=C2)COCC[Si](C)(C)C | C26H38N4O2Si
reactant | phthalimide | 0.909 mmol, 134 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.909 mmol, 238 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.909 mmol, 184 mg | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | hydrazine monohydrate | 11.6 mmol, 1.00 mL | O.NN
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(Aminomethyl)-N-(1-benzylpiperidin-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-amine | 51.1 mg, yield 24% | NCC1=C(C2=C(N=C1)N(C=C2)COCC[Si](C)(C)C)NC2CCN(CC2)CC2=CC=CC=C2 | C26H39N5OSi
